US06177423B1
6-Amino-2-hydroxy-benzo[de]isoquinoline-1,3-dione
4-Amino-1,8-naphthalic anhydride (0.2 g, 0.9 mmol) and hydroxylamine hydrochloride (0.1 g, 1.4 mmol) were reacted in pyridine (20 mL) following the procedure of Example 1 to give 0.2 g of the title compound, mp>360° C.;

reactant | 4-Amino-1,8-naphthalic anhydride | 0.9 mmol, 0.2 g | C1=CC2=C(C=CC3=C2C(=C1)C(=O)OC3=O)N | C12H7NO3
reactant | hydroxylamine hydrochloride | 1.4 mmol, 0.1 g | Cl.NO
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 6-Amino-2-hydroxy-benzo[de]isoquinoline-1,3-dione | 0.2 g | NC=1C=CC=2C(N(C(C3=CC=CC1C23)=O)O)=O | C12H8N2O3
